US07317033B2
b) (4-Chloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine
To 1-(2-amino-4,5-difluoro-phenyl)-3-(4-chloro-thiophen-3-yl)-thiourea (773 mg) in THF (20 ml) a solution of NaOH (240 mg) in water (9 ml) was added followed by a solution of p-toluenesulfonyl chloride (528 mg) in THF (10 ml). Following the analogous description in example 54b) the desired product (275 mg) was obtained.

reactant | 1-(2-amino-4,5-difluoro-phenyl)-3-(4-chloro-thiophen-3-yl)-thiourea | 773 mg | NC1=C(C=C(C(=C1)F)F)NC(=S)NC1=CSC=C1Cl | C11H8ClF2N3S2
reactant | NaOH | 240 mg | [OH-].[Na+]
reactant | p-toluenesulfonyl chloride | 528 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 9 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | (4-Chloro-thiophen-3-yl)-(5,6-difluoro-1H-benzoimidazol-2-yl)-amine | 275 mg | ClC=1C(=CSC1)NC1=NC2=C(N1)C=C(C(=C2)F)F | C11H6ClF2N3S
